US07687502B2
N-(1-Methyl-1H-pyrazol-3-yl)-6-(pyrimidin-4-yloxy)-quinazolin-4-yl-amine
The compound of Example 110 was manufactured by the same method as in Example 95, by a similar method thereto or by a combination of such a method with a conventional method using 2-chloropyrimidine, 3-amino-1-methyl-1H-pyrazole and 4-chloro-6-hydroxyquinazoline.

reactant | 2-chloropyrimidine | ClC1=NC=CC=N1 | C4H3ClN2
reactant | 3-amino-1-methyl-1H-pyrazole | NC1=NN(C=C1)C | C4H7N3
reactant | 4-chloro-6-hydroxyquinazoline | ClC1=NC=NC2=CC=C(C=C12)O | C8H5ClN2O
product | N-(1-Methyl-1H-pyrazol-3-yl)-6-(pyrimidin-4-yloxy)-quinazolin-4-yl-amine | CN1N=C(C=C1)NC1=NC=NC2=CC=C(C=C12)OC1=NC=NC=C1 | C16H13N7O
